US06057311
f. N-(Benzyloxycarbonylaminomethylcarbonyl)-N-(tert-butyloxycarbonylmethyl)-2-(3-hydroxypropyl)aniline
Tetrabutylammonium fluoride (1.0M in THF/10 ml, 10 mmol) was added to a solution of N-(benzyloxycarbonylaminomethylcarbonyl)-N-(tert-butyloxycarbonyl-methyl)-2-(3-tert-butyldimethylsilyloxypropyl)aniline(3.87 g, 6.8 mmol) in THF (25 ml) at room temperature. After stirring for 90 minutes the reaction mixture was diluted with ethyl acetate (150 ml), washed with water (150 ml), brine (150 ml) and dried (MgSO4). Filtration and evaporation of the solvent gave the crude product which was purified by flash chromatography on silica gel with ethyl acetate-hexane (2:1) as eluant (2.39 g, 77%).

reactant | Tetrabutylammonium fluoride | 10 mmol, 1.0M, 10 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-(benzyloxycarbonylaminomethylcarbonyl)-N-(tert-butyloxycarbonyl-methyl)-2-(3-tert-butyldimethylsilyloxypropyl)aniline | 6.8 mmol, 3.87 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(C1=C(C=CC=C1)CCCO[Si](C)(C)C(C)(C)C)CC(=O)OC(C)(C)C | C31H46N2O6Si
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(Benzyloxycarbonylaminomethylcarbonyl)-N-(tert-butyloxycarbonylmethyl)-2-(3-hydroxypropyl)aniline | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(C1=C(C=CC=C1)CCCO)CC(=O)OC(C)(C)C | C25H32N2O6
